US05739299
The 2-fluorosulphonyl-4-nitro-5-chlorothiophene (20.4 parts), was added to methanol (240 parts) with hexamine (22.5 parts). Heated to reflux and stirred under these conditions for 4 hours. Cooled to room temperature and poured onto 10% sulphuric acid solution (250 parts). The product was extracted out with ethyl acetate, separated and dried over magnessium sulphate, then screened and concentrated to yield the product 2-fluorosulphonyl-4-nitro-2-aminothiophene (16 parts).

reactant | 2-fluorosulphonyl-4-nitro-5-chlorothiophene | FS(=O)(=O)C=1SC(=C(C1)[N+](=O)[O-])Cl | C4HClFNO4S2
reactant | hexamine | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | methanol | CO | CH4O
product | 2-fluorosulphonyl-4-nitro-2-aminothiophene | FS(=O)(=O)C1(SC=C(C1)[N+](=O)[O-])N | C4H5FN2O4S2
